US06693123B2
[4-(3-Pyridylsulfonylmethyl)-2-phenylbenzoyl]methionine Methyl Ester
The desired compound was prepared from 4-(3-pyridylsulfonylmethyl)-2-phenylbenzoic acid methyl ester by saponification of the methyl ester using the procedure of Example 228D, and coupling with methionine methyl ester according to the procedure of Example 186C. mp 152-154° C. 1H NMR (300 MHz, CDCl3) δ 8.95 (d, 1H), 8.87 (dd, 1H), 7.94 (ddd, 1H), 7.66 (d, 1H), 7.43 (m, 4H), 7.30 (m, 2H), 7.21 (dd, 1H), 7.10 (d, 1H), 5.91 (bd, 1H), 4.66 (ddd, 1H), 4.42 (s, 2H), 3.68 (s, 3H), 2.08 (t, 2H), 2.02 (s, 3H), 1.93 (m, 1H), 1.75 (m, 1H). MS (CI NH3) m/e 516 (M+NH4)+, 499 (M+H)+. Anal calc' for C25H26N2O5S2: C, 60.22; H, 5.25; N, 5.62. Found: C, 60.28; H, 4.94; N, 5.56.

reactant | 4-(3-pyridylsulfonylmethyl)-2-phenylbenzoic acid methyl ester | COC(C1=C(C=C(C=C1)CS(=O)(=O)C=1C=NC=CC1)C1=CC=CC=C1)=O | C20H17NO4S
reactant | methionine methyl ester | COC([C@@H](N)CCSC)=O | C6H13NO2S
product | [4-(3-Pyridylsulfonylmethyl)-2-phenylbenzoyl]methionine Methyl Ester | COC([C@@H](NC(C1=C(C=C(C=C1)CS(=O)(=O)C=1C=NC=CC1)C1=CC=CC=C1)=O)CCSC)=O | C25H26N2O5S2
